US20010016661A1
Preparation of 3-(3-nitrophenyl)methyl-indole-N-acetic Acid
3-(3-Nitrophenyl)methyl-indole-N-acetic Acid, ethyl ester (0.175 g, 0.5 mmol) was dissolved in THF:EtOH (1:4, 5 mL) at room temperature with stirring. The mixture was cooled to 0° C. and treated with 1N NaOH (1.55 mL, 1.6 mmol). The mixture was allowed to stir at this temperature for 2 h. 1 N HCl was added and the mixture extracted with EtOAc (2×). The organics were combined and washed with a sat'd brine solution, dried over MgSO4, filtered and concentrated in vacuo. The residue was triturated with heptane and vacuum-filtered with several heptane washings to give 110 mg (69%) the desired compound as an off-white powder. mp 163-165° C.; 1H NMR (DMSO-d6, 300 MHz) δ 8.11 (s, 1 H), 8.03 (d, J=8.1 Hz, 1 H), 7.75 (d, J=8.1 Hz, 1 H), 7.53 (t, J=8.1 Hz, 1 H), 7.45 (d, J=8.1 Hz, 1 H), 7.33 (d, J=8.4 Hz, 1 H), 7.20 (s, 1 H), 7.11 (t, J=7.2 Hz, 1 H), 6.97 (t, J=7.2 Hz, 1 H), 4.96 (s, 2 H), 4.18 (s, 2 H); LRMS calcd for C17H14N2O4S: 310.0; found 311 (M+1)+.

reactant | 3-(3-Nitrophenyl)methyl-indole-N-acetic Acid, ethyl ester | 0.5 mmol, 0.175 g | [N+](=O)([O-])C=1C=C(C=CC1)CC1=CN(C2=CC=CC=C12)CC(=O)OCC | C19H18N2O4
reactant | NaOH | 1.6 mmol, 1N, 1.55 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF EtOH | 5 mL | C1CCOC1.CCO
product | 3-(3-nitrophenyl)methyl-indole-N-acetic Acid | 110 mg, 69% | [N+](=O)([O-])C=1C=C(C=CC1)CC1=CN(C2=CC=CC=C12)CC(=O)O | C17H14N2O4
